US09380782B2
A mixture of 1-methoxy-2-methyl-3-aminobenzene 15.0 g, triphosgene 48.7 g and toluene 350 mL was stirred with heating under reflux for three hours. The reaction mixtures after standing to cool were concentrated under reduced pressure to give 1-methoxy-3-isocyanato-2-methylbenzene 17.0 g.

reactant | 1-methoxy-2-methyl-3-aminobenzene | 15.0 g | COC1=C(C(=CC=C1)N)C | C8H11NO
reactant | triphosgene | 48.7 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | 1-methoxy-3-isocyanato-2-methylbenzene | 17.0 g | COC1=C(C(=CC=C1)N=C=O)C | C9H9NO2
